US07625888B2
Step B: {(1R)-1-(2,4,5-Trifluorobenzyl)-2-[9-(trifluoromethyl)-5,6-dihydrobis[1,2,4]triazolo[1,5-a:3′,4′-c]pyrazin-3-yl]ethyl}amine hydrochloride
The {(1R)-1-(2,4,5-trifluorobenzyl)-2-[9-(trifluoromethyl)-5,6-dihydrobis[1,2,4]triazolo[1,5-a:3′,4′-c]pyrazin-3-yl]ethyl}amine (free base) from Step A was treated an excess of 4M HCl in anhydrous dioxane, and the mixture was stirred at room temperature for 1 h. The residue obtained upon concentration of the reaction mixture was washed with ether and dried to afford the title compound as a white solid. LC-MS 418 (M+1).

reactant | {(1R)-1-(2,4,5-trifluorobenzyl)-2-[9-(trifluoromethyl)-5,6-dihydrobis[1,2,4]triazolo[1,5-a:3′,4′-c]pyrazin-3-yl]ethyl}amine | FC1=C(C[C@H](CC2=NN=C3C=4N(CCN32)N=C(N4)C(F)(F)F)N)C=C(C(=C1)F)F | C16H13F6N7
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | {(1R)-1-(2,4,5-Trifluorobenzyl)-2-[9-(trifluoromethyl)-5,6-dihydrobis[1,2,4]triazolo[1,5-a:3′,4′-c]pyrazin-3-yl]ethyl}amine hydrochloride | Cl.FC1=C(C[C@H](CC2=NN=C3C=4N(CCN32)N=C(N4)C(F)(F)F)N)C=C(C(=C1)F)F | InChI=1S/C16H13F6N7.ClH/c17-9-6-11(19)10(18)4-7(9)3-8(23)5-12-25-26-14-13-24-15(16(20,21)22)27-29(13)2-1-28(12)14;/h4,6,8H,1-3,5,23H2;1H/t8-;/m1./s1
